US04221912
By substituting 4-tert-butoxy-L-proline tert-butyl ester for the L-proline tert-butyl ester and 3-acetylthiopropanoyl chloride for the 3-acethylthio-2-methylpropanoyl chloride in the procedure of Example 1, 1-(3-acetylthio-1-oxopropyl)-4,5-dihydro-4-hydroxy-1H-pyrrole-2-carboxylic acid is obtained.

reactant | 4-tert-butoxy-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCC(C1)OC(C)(C)C)=O | C13H25NO3
reactant | L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | 3-acetylthiopropanoyl chloride | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
product | 1-(3-acetylthio-1-oxopropyl)-4,5-dihydro-4-hydroxy-1H-pyrrole-2-carboxylic acid | C(C)(=O)SCCC(=O)N1C(=CC(C1)O)C(=O)O | C10H13NO5S
